US09034907B2
3-[3-(1H-imidazol-1-yl)propyl]-2-thioxo-2,3,5,6,7,8,9,10-octahydrocycloocta[4,5]thieno[2,3-d]pyrimidin-4(1H)-one
The compound was synthesized starting from methyl 4,5,6,7,8,9-hexahydro-2-isothiocyanatocycloocta[b]thiophene-3-carboxylate (0.004 g, 0.01 mmol) and 3-(1H-imidazol-1-yl)propan-1-amine (0.002 g, 0.01 mmol) as described above.

reactant | methyl 4,5,6,7,8,9-hexahydro-2-isothiocyanatocycloocta[b]thiophene-3-carboxylate | 0.01 mmol, 0.004 g | N(=C=S)C1=C(C2=C(S1)CCCCCC2)C(=O)OC | C13H15NO2S2
reactant | 3-(1H-imidazol-1-yl)propan-1-amine | 0.01 mmol, 0.002 g | N1(C=NC=C1)CCCN | C6H11N3
product | 3-[3-(1H-imidazol-1-yl)propyl]-2-thioxo-2,3,5,6,7,8,9,10-octahydrocycloocta[4,5]thieno[2,3-d]pyrimidin-4(1H)-one | N1(C=NC=C1)CCCN1C(NC2=C(C1=O)C1=C(S2)CCCCCC1)=S | C18H22N4OS2
